US07148234B2
STEP 1. 5-Bromo-4,6-dimethyl-3-nitro-2-pyridinol
To a solution of 5-bromo-4,6-dimethyl-3-nitro-2-pyridinylamine (Heitsch, H.; et al. Bioorg. Med. Chem. 1997, 5, 673., 2.0 g, 8.1 mmol) in trifluoroacetic acid/water (v/v, 2:1, 30 mL) was added sodium nitrite (1.1 g, 16 mmol) in small portions at room temperature, and then the reaction mixture was stirred overnight. The resulting precipitates were collected by filtration, washed with water, and dried under reduced pressure to give 2.2 g (quant.) of the title compound: 1H-NMR (CDCl3) δ 2.53 (3H, s), 2.38 (3H, s).

reactant | 5-bromo-4,6-dimethyl-3-nitro-2-pyridinylamine | 8.1 mmol, 2.0 g | BrC=1C(=C(C(=NC1C)N)[N+](=O)[O-])C | C7H8BrN3O2
reactant | sodium nitrite | 16 mmol, 1.1 g | N(=O)[O-].[Na+]
solvent | trifluoroacetic acid water | 30 mL | FC(C(=O)O)(F)F.O
product | 5-Bromo-4,6-dimethyl-3-nitro-2-pyridinol | BrC=1C(=C(C(=NC1C)O)[N+](=O)[O-])C | C7H7BrN2O3
